US08168796B2
After charging 9.6 parts of 1-phenyl-3-(4-iodophenyl)-5-(4-t-butylphenyl)pyrazoline synthesized by a known method, 2.4 parts of trimethylsilylacetylene, 0.28 parts of bis(triphenylphosphine)palladium(II) dichloroide, 0.04 parts of copper iodide and 40 mL of triethylamine in 80 mL of THF, the mixture was stirred at 60° C. for 10 hours. The reaction mixture was filtered, the obtained filtrate was concentrated, and the precipitate was filtered, washed, recrystallized from methanol and dried at 60° C. to obtain 5.6 parts of 1-phenyl-3-(4-trimethylsilylethynylphenyl)-5-(4-t-butylphenyl)pyrazoline having a melting point of 160-162° C.

reactant | 1-phenyl-3-(4-iodophenyl)-5-(4-t-butylphenyl)pyrazoline | C1(=CC=CC=C1)N1NC(=CC1C1=CC=C(C=C1)C(C)(C)C)C1=CC=C(C=C1)I | C25H25IN2
reactant | trimethylsilylacetylene | C[Si](C)(C)C#C | C5H10Si
reactant | triethylamine | 40 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 80 mL | C1CCOC1 | C4H8O
catalyst | copper iodide | [Cu](I)I
product | 1-phenyl-3-(4-trimethylsilylethynylphenyl)-5-(4-t-butylphenyl)pyrazoline | C1(=CC=CC=C1)N1NC(=CC1C1=CC=C(C=C1)C(C)(C)C)C1=CC=C(C=C1)C#C[Si](C)(C)C | C30H34N2Si
